US07399759B2
3-(4-Pyridyl)propionitrile
3-(4-Pyridyl)acrylonitrile (1.3 g, 10.0 mmol) was dissolved in ethanol (10 ml), and 10% palladium-carbon (0.13 g) and a solution of ammonium formate (2.5 g, 40.0 mmol) in water (3 ml) were added thereto. The reaction mixture was refluxed for 2.5 hrs. Palladium-carbon was filtered off, and the reaction mixture was combined with ethyl acetate and water. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The reaction mixture was subjected to a silica gel (25 g) column chromatography. The fractions eluted with hexane-ethyl acetate (1:1, v/v) were collected and concentrated to give the titled compound (0.88 g, 67%)

reactant | 3-(4-Pyridyl)acrylonitrile | 10.0 mmol, 1.3 g | N1=CC=C(C=C1)C=CC#N | C8H6N2
reactant | ammonium formate | 40.0 mmol, 2.5 g | C(=O)[O-].[NH4+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 3 ml | O | H2O
catalyst | palladium-carbon | 0.13 g | [C].[Pd]
product | 3-(4-Pyridyl)propionitrile | 0.88 g, 67% | N1=CC=C(C=C1)CCC#N | C8H8N2
